US07915424B2
(a) (3,4-Difluorophenylethynyl)-trimethylsilane
Add copper (I) iodide (109.4 mg, 0.57 mmol), bis(triphenylphosphine)palladium (II) dichloride (365 mg, 0.52 mmol) and triethylamine (5.88 mL, 41.6 mmol), to a solution of 4-bromo-1,2-difluorobenzene (1.17 mL, 10.4 mmol) and trimethylsilylacetylene (1.89 mL, 13.5 mmol), in ethyl acetate (8 mL). Stir at 50° C. for 18h. Cool to room temperature, concentrate and purify the residue by silica gel chromatography, eluting with hexanes, to give the title compound (2.20 g, 100%).

reactant | triethylamine | 41.6 mmol, 5.88 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-1,2-difluorobenzene | 10.4 mmol, 1.17 mL | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | trimethylsilylacetylene | 13.5 mmol, 1.89 mL | C[Si](C)(C)C#C | C5H10Si
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.57 mmol, 109.4 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.52 mmol, 365 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | (3,4-Difluorophenylethynyl)-trimethylsilane | 2.20 g, 100% | FC=1C=C(C=CC1F)C#C[Si](C)(C)C | C11H12F2Si
